Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
confusion, agitation
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ ___ woman with 
Alzheimer's dementia, CAD s/p PCI x3, recent ED visit on ___ 
for L3-4 disc protrusion causing severe stenosis, brought in by 
family due to worsening confusion and agitation. History was 
obtained from her two daughters who are quite involved in her 
care.

Per daughters, the patient became acutely agitated last night 
(___), was unable to go to sleep. This morning (___), she 
remained confused with abnormal behavior including putting mail 
down her pants. The patient went outside the house and refused 
to come back in; her daughter-in-law had to physically restrain 
her from running into the street, and decided to call ___ and 
withdraw her Do-Not-Hospitalize order. In the ambulance, patient 
reportedly had paranoid ideation of EMS and her family 
conspiring against her. Family denies any infectious symptoms or 
trauma.   

Per daughter, the patient has never had an episode similar to 
this in the past. She and her husband moved from ___ to 
the ___ in ___, now lives with her husband, daughter, and 
daughter-in-law. She does act confused at baseline, was 
diagnosed with Alzheimer's dementia in ___ in ___ 
___. Became more confused since moving, now cannot follow 
multiple commands. Also started to have hallucinations of people 
in their backyard, which have increased in frequency. The 
patient had taken care of herself and husband in ___ 
since moving, is able to dress and clean herself but needs help 
with cooking, taking medications, bills.

 
Past Medical History:
- Late onset Alzheimer's disease 
- Coronary artery disease s/p DES x3 in ___ 
- L3-4 disc protrusion with severe spinal stenosis
- GERD 
- Colonic polyp 
- Depression with anxiety 
- Subclinical hypothyroidism 
- Chronic pain syndrome 
- Essential hypertension 
- Asthma 
- Cervical disc herniation 
- Osteoporosis
- Osteoarthrosis, generalized, involving multiple sites 
- Vitamin D insufficiency 
- Migraine 
- Multiple thyroid nodules 
- S/P cataract extraction 
- Hypercholesteremia 

 
Social History:
___
Family History:
5 of 8 siblings with Alzheimer's disease.  
Sister with breast cancer. 
Father and mother with heart disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
VS: T 97.6 BP 192/78 HR 72 RR 18 O2sat 91% on RA
GENERAL: thin frail-appearing elderly woman in NAD  
HEAD: atraumatic
EYES: PERRL, EOMI, no nystagmus, anicteric sclera, pink 
conjunctiva. 
ENT: OP moist, clear
NECK: no meningismus, no LAD, no JVD  
HEART: RRR, no murmurs  
LUNGS: Non-labored, CTAB 
ABDOMEN: Soft, NDNT, no palpable HSM or masses, NABS.
EXTREMITIES: no cyanosis, clubbing or edema
NEURO: Alert, responds to commands but unable to respond 
coherently to questions. PERRL, EOMI, no nystagmus. CN II-XII 
intact. No increased tone or cogwheeling. +Hyperreflexia in L 
patellar and Achilles.  
SKIN: warm and well perfused, no excoriations, rashes, or 
lesions.

DISCHARGE PHYSICAL EXAM
========================
VS: T 99.9/97.6 BP 119-192/64-78 HR ___ RR ___ O2sat 95-99% 
on RA
GENERAL: thin frail-appearing elderly woman in NAD  
HEAD: atraumatic
EYES: PERRL, EOMI, no nystagmus, anicteric sclera, pink 
conjunctiva. 
ENT: OP moist, clear
NECK: no meningismus, no LAD, no JVD  
HEART: RRR, no murmurs  
LUNGS: Non-labored, CTAB 
ABDOMEN: Soft, NDNT, no palpable HSM or masses, NABS.
EXTREMITIES: no cyanosis, clubbing or edema
NEURO: Alert, responds to commands but unable to respond 
coherently to questions. PERRL, EOMI, no nystagmus. CN II-XII 
intact. No increased tone or cogwheeling. +Hyperreflexia in L 
patellar and Achilles.  
SKIN: warm and well perfused, no excoriations, rashes, or 
lesions.

 
Pertinent Results:
ADMISSION LABS
==================
___ 09:35AM   WBC-5.6 RBC-4.23 HGB-13.0 HCT-38.8 MCV-92 
MCH-30.7 MCHC-33.5 RDW-13.3 RDWSD-45.1
___ 09:35AM   NEUTS-64.5 ___ MONOS-9.4 EOS-3.9 
BASOS-1.6* IM ___ AbsNeut-3.63 AbsLymp-1.15* AbsMono-0.53 
AbsEos-0.22 AbsBaso-0.09*
___ 09:35AM   GLUCOSE-106* UREA N-24* CREAT-0.8 SODIUM-142 
POTASSIUM-3.1* CHLORIDE-100 TOTAL CO2-28 ANION GAP-17
___ 09:47AM   ___ PO2-25* PCO2-40 PH-7.49* TOTAL 
CO2-31* BASE XS-5
___ 09:35AM   ALBUMIN-4.7 CALCIUM-9.6 PHOSPHATE-1.4* 
MAGNESIUM-1.8
___ 09:35AM   ALT(SGPT)-89* AST(SGOT)-54* CK(CPK)-49 ALK 
PHOS-226* TOT BILI-0.5
___ 09:35AM   GGT-299*
___ 09:35AM   CK-MB-2 cTropnT-<0.01
___ 03:31PM   CK-MB-2 cTropnT-<0.01
___ 09:35AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:50AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:50AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG

DISCHARGE LABS
==================
___ 06:55AM BLOOD WBC-5.2 RBC-4.26 Hgb-13.4 Hct-39.7 MCV-93 
MCH-31.5 MCHC-33.8 RDW-13.6 RDWSD-46.4* Plt ___
___ 06:55AM BLOOD Glucose-93 UreaN-24* Creat-0.8 Na-143 
K-4.2 Cl-106 HCO3-26 AnGap-15
___ 06:55AM BLOOD ALT-61* AST-42* AlkPhos-182* TotBili-0.7
___ 06:55AM BLOOD Calcium-9.0 Phos-4.0 Mg-1.9

MICRO
==================
__________________________________________________________
___ 9:50 am URINE      CATHETER. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 9:35 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

IMAGING & STUDIES
==================
EKG ___ ___: sinus rhythm, normal axis, incomplete RBBB, ST 
depressions V4-V6
EKG ___ 1445: ST depressions resolved, otherwise unchanged

___ CT head w/o contrast
There is no evidence of acute large territorial infarction, 
hemorrhage, edema,or mass effect. There is prominence of the 
ventricles and sulci suggestive of age-related volume loss. 
Periventricular white-matter hypodensities are nonspecific, but 
likely represent sequela of chronic small vessel disease. No 
fractures.

___ CHEST (PA & LAT) 
1. No acute cardiopulmonary abnormality. 
2. Hyperinflation of the lungs with flattening of the 
hemidiaphragms.

___ RUQ US
1. Normal hepatic echotexture without evidence of focal lesion. 
2. Cholecystectomy.  No evidence of biliary obstruction. 

 
Brief Hospital Course:
Ms. ___ is an ___ yo ___ woman with 
Alzheimer's dementia, CAD s/p PCI x3, recent admission for L3-4 
radiculopathy, readmitted for acute agitation and confusion. 
Diagnostic workup for medical cause was negative and patient 
returned to baseline within 24 hours and was discharged.

#Acute on chronic encephalopathy
Family describes slow worsening of confusion, paranoia, and 
hallucinations over months consistent with progression of 
dementia, with acute worsening with agitation in past 24 hours. 
Potential triggers include increased pain from L3-4 
radiculopathy, sleep disturbance, and recently increased dose of 
gabapentin (100mg daily to BID). Other workup was negative 
including infectious testing, NCHCT, tox screen, bladder scan. 
Continued home pain regimen, donepezil, memantine. 

#Dementia
Daughter reports patient was diagnosed with Alzheimer's in ___ in ___. Has strong family history (5 of 8 
siblings), though her siblings developed dementia at an earlier 
age. CT head also consistent with small vessel disease. Possible 
contribution from worsening depression (see below). No exam 
findings to suggest ___ body/parkinsonism. Continued home 
memantine, donepezil, sertraline. 

#HTN
BP was elevated to 199/95 on presentation, improved to 147/65 
with home meds (baseline 140s). Acute elevation was likely due 
to agitation or missed meds. No papilledema or acute 
intracranial process on ___. Initial ECG found small ST 
depressions in V4-V6 which resolved on repeat ECG. Patient 
reported no ischemic symptoms (though history is limited) and 
trops were negative x2. Discharged on prior regimen 
(HCTZ/irbesartan).

#CAD s/p PCI x3
Pt with multivessel CAD s/p DES to PDA in ___, prior stenting 
to LAD and OM1. Last visit with cardiologist on ___, patient 
reported chest pain with exertion, relieved by sublingual nitro. 
Duration and frequency of chest pain was unclear. This 
admission, pt denied chest pain (though history limited by AMS) 
and trops negative x2. EKG had <1mm ST depressions in V4-V6 
which resolved with improved BP control. Outpatient stress 
testing ordered by patient's cardiologist. Continued home atorva 
20mg qhs, clopidgrel 75mg daily (not on aspirin due to GI 
intolerance).

#Elevated LFTs
AP/GGT > ALT/AST, suggestive of cholestatic process. Abdominal 
exam and RUQUS were normal. Hepatitis serologies and iron 
studies pending at discharge.

#L3-L4 disc protrusion with radiculopathy
Pt recently presented to ___ ED on ___ with severe low back 
and leg pain and was found to have L3-4 disc protrusion causing 
severe stenosis and radicular pain. Neurosurgery recommended no 
emergent surgical intervention but could consider elective 
discectomy. Re-discussed with ___ this admission, 
recommended outpatient follow up, pain control, and stress 
testing prior to procedure. Continued home acetaminophen, 
gabapentin, tramadol. 

#Low K, Mg, Phos
Resolved with repletion. Likely multifactorial -- poor PO 
intake, HCTZ, PPI.

#Depression
Per daughter, the patient's depressive symptoms have been 
worsening as her husband suffered from a stroke and is on home 
hospice. Continued home sertraline 100 mg daily. 

#GERD
Plan to continue omeprazole for now, could consider 
discontinuing. Held home ranitidine given potential toxicities, 
restarted at discharge.

Transitional Issues
=======================
- Radiculopathy: patient has L3-4 disc protrusion causing severe 
back and leg pain. ___ have contributed to acute agitation and 
confusion. Taking APAP 1000mg BID, gabapentin 100mg BID, 
tramadol 25mg BID - titrate as needed. Neurosurgery recommended 
outpatient follow up. 

- Stress testing: patient with history of CAD s/p PCIx3 and 
symptoms of chest pain on exertion. Recent outpatient cardiology 
note indicates that stress test was ordered but not completed. 
Will need stress testing if considering elective discectomy.

- Elevated AST/ALT, AP/GGT: RUQUS negative. Hepatitis serologies 
and iron studies pending on discharge. Would recheck at next PCP 
appt, consider further workup if within goals of care.

- Consider discontinuing ranitidine, PPI given potential 
toxicities.

#Health care proxy: ___ (daughter) ___, 
___ 
#Code Status: DNAR/DNI (confirmed ___ has MOLST)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 100 mg PO BID 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. TraMADol 25 mg PO BID 
4. Ranitidine 300 mg PO DAILY 
5. Omeprazole 40 mg PO DAILY 
6. Memantine 10 mg PO DAILY 
7. Donepezil 10 mg PO QHS 
8. Atorvastatin 20 mg PO QPM 
9. Sertraline 100 mg PO DAILY 
10. Clopidogrel 75 mg PO DAILY 
11. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
12. irbesartan 150 mg oral DAILY 
13. Citracal Regular (calcium citrate-vitamin D3) 250 mg 
calcium- 200 unit oral DAILY 
14. Acetaminophen 1000 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO BID  
2.  Atorvastatin 20 mg PO QPM  
3.  Citracal Regular (calcium citrate-vitamin D3) 250 mg 
calcium- 200 unit oral DAILY  
4.  Clopidogrel 75 mg PO DAILY  
5.  Donepezil 10 mg PO QHS  
6.  Gabapentin 100 mg PO BID  
7.  Hydrochlorothiazide 12.5 mg PO DAILY  
8.  irbesartan 150 mg oral DAILY  
9.  Memantine 10 mg PO DAILY  
10.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
11.  Omeprazole 40 mg PO DAILY  
12.  Ranitidine 300 mg PO DAILY  
13.  Sertraline 100 mg PO DAILY  
14.  TraMADol 25 mg PO BID  
15.Rolling Walker
ICD-___: ___ 
Prognosis: Good
Length of need: 13 months

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES 
=============================== 
Alzheimer's dementia with behavioral disturbance 

SECONDARY DIAGNOSES 
=============================== 
Hypertension 
Coronary artery disease status post percutaneous coronary 
interventions 
Elevated liver enzymes 
Lumbar radiculopathy 
Depression
Hypokalemia
Hypomagnesemia
Hypophosphatemia
Gastroesophageal reflux disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___. You were admitted 
because you were confused and behaving strangely. We did tests 
and did not find any infection or other cause for your 
confusion. Your symptoms are probably due to your Alzheimer's 
disease. They might also be worsened by your back pain. You 
should follow up with neurosurgery as an outpatient.

Please also follow up with your PCP and cardiologist.

We wish you all the best.

Sincerely,
Your ___ care team
 
Followup Instructions:
___